US07589067B2
Step 4a. Preparation of: (1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-phenyl-acetic acid benzyl ester
To a solution of benzyl-2-hydroxy-2-phenylacetate (2.42 g, 10 mmol), N-hydroxyphthalimide (1.96 g, 12 mmol) and PPh3 (3.4 g, 13 mmol) in CH2Cl2 (30 mL) was added DIAD (2.63 g, 13 mmol) at −20° C. The resulting mixture was stirred at −20° C. for 1 hour. The reaction mixture was concentrated and purified by flash chromatography (silica gel, Hexanes/CH2Cl2=1/3) giving 3.8 g (98%) of the title compound.

reactant | benzyl-2-hydroxy-2-phenylacetate | 10 mmol, 2.42 g | C(C1=CC=CC=C1)OC(C(C1=CC=CC=C1)O)=O | C15H14O3
reactant | N-hydroxyphthalimide | 12 mmol, 1.96 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | PPh3 | 13 mmol, 3.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 13 mmol, 2.63 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-phenyl-acetic acid benzyl ester | 3.8 g, 98% | C(C1=CC=CC=C1)OC(C(C1=CC=CC=C1)ON1C(C2=CC=CC=C2C1=O)=O)=O | C23H17NO5
